US06310070B1
Following the same conditions as in Reference Example 2, 14.30 g (67 mmol) of 4-benzylideneamino-5-imidazole carboxamide obtained in Reference Example 1 was reacted with butyl iodate, instead of benzyl chloride in the Reference Example 2. After the post-treatment, 2.47 g of 4-amino-1-butyl-5-imidazolecarboxamide hydrochloride was obtained (yield 17%).

reactant | 4-benzylideneamino-5-imidazole carboxamide | 67 mmol, 14.30 g | C(C1=CC=CC=C1)=NC=1N=CNC1C(=O)N | C11H10N4O
reactant | butyl iodate | I(=O)(=O)OCCCC | C4H9IO3
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 4-amino-1-butyl-5-imidazolecarboxamide hydrochloride | 2.47 g, yield 17% | Cl.NC=1N=CN(C1C(=O)N)CCCC | InChI=1S/C8H14N4O.ClH/c1-2-3-4-12-5-11-7(9)6(12)8(10)13;/h5H,2-4,9H2,1H3,(H2,10,13);1H
